US07456176B2
Synthesis of [7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-[4-(piperazine-1-sulfonyl)-phenyl]-amine HCl salt
In a dry 25 mL round bottom flask, 7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.162 g, 0.533 mmol, 1 equiv), 4-bromo-N-isopropyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.3 g, 0.8 mmol, 1.5 equiv), cesium carbonate (0.522 g, 1.59 mmol, 3 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene (0.062 g, 0.106 mmol, 0.2 equiv) and tris(dibenzylideneacetone)dipalladium (0.049 g, 0.0533 mmol, 0.1 equiv) were combined. The reactants were flushed with argon, diluted with dioxane (20 mL), and outfitted with a reflux condenser. The reaction was heated to reflux for 2 hours, then filtered hot and the solvents were evaporated. Purification on silica gel flash column provided desired product, 0.144 g yellow solids, which were taken up in 5 mL DCM and treated with 2 mL 2M HCl in ether solution. The solvents were then evaporated and the resulting solids were collected and dried to yield a yellow solid (0.16 g, 50% yield). MS (ESI+): m/z=599.2, LC retention time: 2.99 min. 1H NMR (DMSO-d6): δ 0.98 (d, 6H), 1.88 (m, 2H), 2.01 (m, 2H), 2.72 (s, 3H), 3.02-3.08 (m, 2H), 3.37 (m, 2H), 3.46 (m, 2H), 3.62 (m, 2H), 4.02 (m, 1H), 7.53 (m, 1H), 7.67 (d, J=8.1 Hz, 2H), 7.79 (s, 1H), 7.92 (d, J=8.7 Hz, 2H), 8.18 (d, J=1.6 Hz, 1H), 8.27 (d, J=8.7 Hz, 2H), 10.7 (m, 1H), 11.51 (s, 1H).

reactant | 7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.533 mmol, 0.162 g, 1 equiv | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C14H10Cl2N4
reactant | 4-bromo-N-isopropyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.8 mmol, 0.3 g, 1.5 equiv | BrC1=CC=C(C=C1)S(=O)(=O)N(CCN1CCCC1)C(C)C | C15H23BrN2O2S
reactant | cesium carbonate | 1.59 mmol, 0.522 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene | 0.106 mmol, 0.062 g, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0533 mmol, 0.049 g, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-[4-(piperazine-1-sulfonyl)-phenyl]-amine HCl salt | Cl.ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)N2CCNCC2)C(=C1)C | InChI=1S/C24H22Cl2N6O2S.ClH/c1-15-13-16(22-19(25)3-2-4-20(22)26)14-21-23(15)29-24(31-30-21)28-17-5-7-18(8-6-17)35(33,34)32-11-9-27-10-12-32;/h2-8,13-14,27H,9-12H2,1H3,(H,28,29,31);1H
